* DPT-LLC V=725 I=100.8 Cs=0 Rgoff=0 Lloop=5e-9 Voff=-3
.include ../models/sic-1200-c3m.lib
VBUS bus 0 DC 725
CDC bus 0 100u ic=725
LLP bus kd 5e-9
MFW kd gfw swk SIC1200_23R_C
LFWK swk sw 1.5n
RGFW gfw fwref 0.218
VGFW fwref swk -3
* no turn-off snubber
LLD kd sw 0.00006 ic=100.8
VSNS sw d1 0
LD d1 d 2n
M1 d g ks SIC1200_23R_C
LKS ks s 1.5n
LSP s 0 2n
VDRV drv ks PWL(0 18 4e-7 18 4.05e-7 -3 0.0000019 -3 0.000001905 18 0.0000027 18 0.000002705 -3)
RGN drv gon 4.7
DGN gon g DIDEAL
DGF g drv DIDEAL
.model DIDEAL D(Is=1e-3 N=0.1)
.tran 0.2n 0.0000032999999999999997 uic
.option method=gear reltol=1e-3 abstol=1u vntol=1m
.control
set filetype=ascii
run
wrdata dpt-llc-30kw-cs0-PS150-lead.out v(d,ks) v(g,ks) i(VSNS) v(gfw,swk)
quit
.endc
.end